US09169242B2
Step 1: Methyl 3-methylthiophene-2-carboxylate:
To a solution of 3-Methylthiophene-2-carboxylic acid (15 g, 105 mmol, 1.0 eq) in methanol (150 mL) was added cone sulfuric acid (7.5 mL) drop wise and refluxed for 12 h. The solvent was evaporated under vacuum and the residue was taken into ethyl acetate (200 mL), washed with water (2×50 mL), saturated aqueous sodium bicarbonate solution (2×50 mL), brine (50 mL), dried (Na2SO4) and filtered. The filtrate was evaporated under vacuum to afford 20 g (97%) of the desired product as a oil. 1HNMR (400 MHz, CDCl3) δ 7.38 (d, J=5.0 Hz, 1H), 6.91 (d, J=5.0 Hz, 1H), 3.85 (s, 3H), 2.55 (s, 3H); ESI-MS [(m/z) 157 (MH)+]

reactant | 3-Methylthiophene-2-carboxylic acid | 105 mmol, 15 g, 1.0 eq | CC1=C(SC=C1)C(=O)O | C6H6O2S
reactant | sulfuric acid | 7.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 150 mL | CO | CH4O
product | Methyl 3-methylthiophene-2-carboxylate | 20 g, 97% | CC1=C(SC=C1)C(=O)OC | C7H8O2S
